US08426587B2
(E)-4-(4-Amino-2-fluorobut-2-enyloxy)-3,5-dichloro-N-cyclohexylbenzamide hydrochloride was synthesized from (E)-tert-butyl 3-fluoro-4-bromobut-2-enylcarbamate and 4-hydroxy-3,5-dichloro-N-cyclohexylbenzamide.

reactant | (E)-tert-butyl 3-fluoro-4-bromobut-2-enylcarbamate | F/C(=C/CNC(OC(C)(C)C)=O)/CBr | C9H15BrFNO2
reactant | 4-hydroxy-3,5-dichloro-N-cyclohexylbenzamide | OC1=C(C=C(C(=O)NC2CCCCC2)C=C1Cl)Cl | C13H15Cl2NO2
product | (E)-4-(4-Amino-2-fluorobut-2-enyloxy)-3,5-dichloro-N-cyclohexylbenzamide hydrochloride | Cl.NC/C=C(\COC1=C(C=C(C(=O)NC2CCCCC2)C=C1Cl)Cl)/F | InChI=1S/C17H21Cl2FN2O2.ClH/c18-14-8-11(17(23)22-13-4-2-1-3-5-13)9-15(19)16(14)24-10-12(20)6-7-21;/h6,8-9,13H,1-5,7,10,21H2,(H,22,23);1H/b12-6+;
